US07153878B2
3-(2-Methyl-4-{1-[4-methyl-2-(4-trifluoromethyl-phenyl)-oxazol-5-yl]-ethoxy}-phenyl)-propionic acid
3-(2-Methyl-4-{1-[4-methyl-2-(4-trifluoromethyl-phenyl)-oxazol-5-yl]-ethoxy}-phenyl)-propionic acid methyl ester (0.176 g, 0.393 mmol) is dissolved in 20 mL of a 3:2:1 mixture of THF:MeOH:H2O. Lithium hydroxide (0.050 g, 2.08 mmol) is added and the resulting mixture is heated to 60° C. for 1 hr. The mixture is cooled to room temperature, diluted with 50 mL water and the pH is adjusted to 2–3 with 1M HCl. The product is extracted with two 50 mL portions of ethyl acetate. The combined organic extracts are washed with 50 mL water, dried over anhydrous magnesium sulfate, filtered, and concentrated to yield the title compound, 3-(2-Methyl-4-{1-[4-methyl-2-(4-trifluoromethyl-phenyl)-oxazol-5-yl]-ethoxy}-phenyl)-propionic acid as a white solid, 0.12 g (71%). MS (M++1) 434.

reactant | 3-(2-Methyl-4-{1-[4-methyl-2-(4-trifluoromethyl-phenyl)-oxazol-5-yl]-ethoxy}-phenyl)-propionic acid methyl ester | 0.393 mmol, 0.176 g | COC(CCC1=C(C=C(C=C1)OC(C)C1=C(N=C(O1)C1=CC=C(C=C1)C(F)(F)F)C)C)=O | C24H24F3NO4
reactant | MeOH | CO | CH4O
reactant | Lithium hydroxide | 2.08 mmol, 0.050 g | [OH-].[Li+]
reactant | HCl | 1M | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | water | 50 mL | O | H2O
product | 3-(2-Methyl-4-{1-[4-methyl-2-(4-trifluoromethyl-phenyl)-oxazol-5-yl]-ethoxy}-phenyl)-propionic acid | CC1=C(C=CC(=C1)OC(C)C1=C(N=C(O1)C1=CC=C(C=C1)C(F)(F)F)C)CCC(=O)O | C23H22F3NO4
